US04053484
Preparation of 1-Benzoyl-3-(4,5,6,7-tetrahydro-7-oxobenzo[b]-thien-4-yl)urea
A solution of 4,5,6,7-tetrahydro-7-oxobenzo[b]thiophen-4-amine (8.02 g) in methylene chloride (75 ml) is added to a stirred solution of benzoyl isocyanate (7.0 g) in methylene chloride (75 ml) under a nitrogen atmosphere. The mixture is stirred for an overnight period at room temperature and the title compound is collected by filtration. Recrystallization of the crude product from acetone/hexane affords 5.7 g of the title compound, m.p. 204° to 207° C.

reactant | 4,5,6,7-tetrahydro-7-oxobenzo[b]thiophen-4-amine | 8.02 g | O=C1CCC(C2=C1SC=C2)N | C8H9NOS
reactant | benzoyl isocyanate | 7.0 g | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | 1-Benzoyl-3-(4,5,6,7-tetrahydro-7-oxobenzo[b]-thien-4-yl)urea | 5.7 g | C(C1=CC=CC=C1)(=O)NC(=O)NC1CCC(C=2SC=CC21)=O | C16H14N2O3S
